US08859553B2
Step 2. 2-Amino-4-(4-methyl-1H-imidazol-1-yl)aniline
4-(4-Methyl-1H-imidazol-1-yl)-2-nitroaniline (0.22 g, 1 mmol) was suspended in 20 mL of anhydrous methanol. The mixture was reduced with 0.11 g of Raney Ni at 40 psi for 7 hrs. Then the Raney Ni was removed by filtration. The filtrate was evaporated to give the title compound 0.18 g as a yellow solid (95.7%).

reactant | 4-(4-Methyl-1H-imidazol-1-yl)-2-nitroaniline | 1 mmol, 0.22 g | CC=1N=CN(C1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H10N4O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-Amino-4-(4-methyl-1H-imidazol-1-yl)aniline | 0.18 g, 95.7% | NC1=C(N)C=CC(=C1)N1C=NC(=C1)C | C10H12N4
